US08039460B2
Step B: N-[(6S,9R)-6-(2,3-Difluorophenyl)-3-(2,2,2-trifluoroethyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-yl]-4-(8-oxo-8,9-dihydro-7H-purin-7-yl)piperidine-1-carboxamide
Triethylamine (94 μL, 0.673 mmol) was added to a solution of the hydrochloride salt of (6S,9R)-6-(2,3-difluorophenyl)-3-(2,2,2-trifluoroethyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-amine (94 mg, 0.224 mmol) and 4-nitrophenyl chloroformate (45 mg, 0.224 mmol) in tetrahydrofuran (3 mL) at 0° C. After 1 h, 8-oxo-7-piperidinium-4-yl-8,9-dihydro-7H-purin-3-ium dichloride (66 mg, 0.224 mmol) and triethylamine (94 μL, 0.673 mmol) were added and the mixture allowed to warm to ambient temperature. After 1 h, saturated aqueous sodium carbonate was added and the mixture was extracted with dichloromethane. The organic layer was washed with saturated aqueous sodium bicarbonate (3×), saturated brine, dried over sodium sulfate, filtered and concentrated. Purification by reverse phase HPLC (C-18, 95% water/acetonitrile→5% water/acetonitrile with 0.1% trifluoroacetic acid) gave the title compound (76 mg). MS 591.2214 (M+1).

reactant | Triethylamine | 0.673 mmol, 94 μL | C(C)N(CC)CC | C6H15N
reactant | (6S,9R)-6-(2,3-difluorophenyl)-3-(2,2,2-trifluoroethyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-amine | 0.224 mmol, 94 mg | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C=2N(C1)C(=CN2)CC(F)(F)F)N | C16H16F5N3
reactant | 4-nitrophenyl chloroformate | 0.224 mmol, 45 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | 8-oxo-7-piperidinium-4-yl-8,9-dihydro-7H-purin-3-ium dichloride | 0.224 mmol, 66 mg | [Cl-].[Cl-].O=C1NC2=[NH+]C=NC=C2N1C1CC[NH2+]CC1
reactant | triethylamine | 0.673 mmol, 94 μL | C(C)N(CC)CC | C6H15N
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | N-[(6S,9R)-6-(2,3-Difluorophenyl)-3-(2,2,2-trifluoroethyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-yl]-4-(8-oxo-8,9-dihydro-7H-purin-7-yl)piperidine-1-carboxamide | 76 mg | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C=2N(C1)C(=CN2)CC(F)(F)F)NC(=O)N2CCC(CC2)N2C(NC1=NC=NC=C21)=O | C27H27F5N8O2
